US07544685B2
1-[(S)-3-(2-Bromoethyl)-2,3-dihydro-1H-indol-1-yl]-ethanone
To a cooled (−28° C.) solution of (S)-2-(2,3-dihydro-1H-indol-3-yl)ethanol (8.5 g, 0.052 mol) in tetrahydrofuran (500 mL) and triethylamine (5.6 g, 0.055 mol) was added a solution of acetyl chloride (4.0 g, 0.051 mol) in tetrahydrofuran (200 mL) over a period of 35 min at −35 to −30° C. The mixture was stirred at −25 to −18° C. for 20 min, and an additional amount of triethylamine (6.3 g, 0.062 mol) was added followed by a solution of methanesulfonyl chloride (6 g, 0.052 mol) in tetrahydrofuran (200 mL) over a period of 25 min at −12 to −3° C. The resulting mixture was filtered and concentrated in vacuo. The residue was dissolved in acetone (600 mL) and lithium bromide (21.7 g, 0.25 mol) was added. The mixture was boiled under reflux for 1 h, filtered and concentrated in vacuo. The residue was purified by flash chromatography (heptane/ethyl acetate 1:1) to give the title compound (10.6 g, 76%).

reactant | (S)-2-(2,3-dihydro-1H-indol-3-yl)ethanol | 0.052 mol, 8.5 g | N1C[C@H](C2=CC=CC=C12)CCO | C10H13NO
reactant | triethylamine | 0.055 mol, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.051 mol, 4.0 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.062 mol, 6.3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.052 mol, 6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 0.25 mol, 21.7 g | [Br-].[Li+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-[(S)-3-(2-Bromoethyl)-2,3-dihydro-1H-indol-1-yl]-ethanone | 10.6 g, 76% | BrCC[C@@H]1CN(C2=CC=CC=C12)C(C)=O | C12H14BrNO
